US07585868B2
Synthesis of 5-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-3-methylthiophene-2-carbaldehyde (BA34).
A solution of 5-Formyl-3-methylthiophene-2-boronic acid (26 mg, 0.14 mmol) in EtOH (3.3 mL) was added to a solution of 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (40 mg, 0.13 mmol) in DME (12 mL). Pd(PPh3)4 (16 mg, 0.014 mmol) and saturated Na2CO3 (1.9 mL) were added and the reaction was heated to 80° C. under an argon atmosphere overnight. After cooling, the reaction was extracted with saturated NaCl and CH2Cl2. Organic phases were combined, concentrated in vacuo and purified by RP-HPLC (MeCN:H2O:0.1% TFA) to yield BA34 (14.7 mg, 38% yield). ESI-MS (M+H)+ m/z calcd 302.1, found 302.0.

reactant | 5-Formyl-3-methylthiophene-2-boronic acid | 0.14 mmol, 26 mg | C(=O)C1=CC(=C(S1)B(O)O)C | C6H7BO3S
reactant | 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.13 mmol, 40 mg | IC1=NN(C2=NC=NC(=C21)N)C(C)C | C8H10IN5
reactant | Na2CO3 | 1.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 3.3 mL | CCO | C2H6O
solvent | DME | 12 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.014 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-3-methylthiophene-2-carbaldehyde | 38% yield | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(S2)C=O)C)C(C)C | C14H15N5OS
